US06500863B1
N-Benzyl-2-acetyl-6-chloro-3-nitro-benzenesulfonamide
A mixture of 2-acetyl-6-chloro-3-nitrobenzenesulfonamide (500 mg, 1.69 mmol), potassium carbonate (469 mg, 3.39 mmnol) and benzyl bromide (0.24 mL, 2.0 mmol) in 20 mL of N,N-dimethylformamide was heated to 75° C for 24 hours. The mixture was acidified with 1 N aq. HCl, then extracted with ethyl acetate. The solvent was concentrated to give the crude material. Column chromatography on silica gel, eluting with ethyl acetate/hexane/acetic acid (50/49/1, v/v/v), gave the desired product (274 mg, 42%). EI-MS (m/z) 383.3, 385.3 (M−).

reactant | 2-acetyl-6-chloro-3-nitrobenzenesulfonamide | 1.69 mmol, 500 mg | C(C)(=O)C1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)N | C8H7ClN2O5S
reactant | potassium carbonate | 469 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 2.0 mmol, 0.24 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | HCl | 1 N | Cl | ClH
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-Benzyl-2-acetyl-6-chloro-3-nitro-benzenesulfonamide | 274 mg, 42% | C(C1=CC=CC=C1)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])C(C)=O | C15H13ClN2O5S
